US05284828
Boc-L-Leu-D-Trp(CH3)-OBzl (2.40 g) in MeOH (50 ml) and water (1 ml) was hydrogenated over 10% palladium on carbon in a similar manner to that of Preparation 1-4) to give Boc-L-Leu-D-Trp(CH3)-OH (1.95 g).

reactant | Boc-L-Leu-D-Trp(CH3)-OBzl | 2.40 g | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C30H39N3O5
solvent | MeOH | 50 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
catalyst | palladium on carbon | [Pd] | Pd
product | Boc-L-Leu-D-Trp(CH3)-OH | 1.95 g | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)O)C(=O)OC(C)(C)C | C23H33N3O5
